* Z:\mnt\design.r\spice\examples\2641-14.asc
V1 N005 0 PULSE(0 3.3 0 0.1n 0.1n 19.8n 40n)
V2 N002 0 5
V3 N003 0 2.5
V4 N004 0 PULSE(0 3.3 0 0.1n 0.1n 9.9n 20n)
V5 N001 0 PWL(0 3.3 0.6u 3.3 +2n 0 +0.31u 0 +2n 3.3)
V6 N006 0 PWL(0 3.3 2u 3.3 +2n 0 +30n 0 +2n 3.3)
C1 OUT 0 10p
XU1 N003 N001 N004 N005 N006 OUT N002 0 LTC2641-14
.tran 3u
.lib LTC2641-14.sub
.backanno
.end
